US07429681B2
5-Oxo-5-(2,3,4-trimethoxy-phenyl)-pentanoic acid methyl ester (60)
75 g of polyphosphoric acid (Acros) was charged in a 250 mL round bottom flask, followed by addition of 1,2,3-trimethoxybenzene (5.0 g, 29.73 mmol), and mono-methylglutarate (6.516 g, 44.60 mmol). The reaction mixture was stirred mechanically for 2.5 h at 45° C. The reaction mixture was then poured into a 1000 mL beaker containing around 250 mL of ice, and stirred well until all the product precipitated out. The tan colored product was then filtered and washed with water and dried under vacuum. No, purification required at this stage. 6.78 g (77%) of product was obtained, which was pure by NMR.

reactant | 1,2,3-trimethoxybenzene | 29.73 mmol, 5.0 g | COC1=C(C(=CC=C1)OC)OC | C9H12O3
reactant | mono-methylglutarate | 44.60 mmol, 6.516 g | COC(CCCC(=O)[O-])=O
product | 5-Oxo-5-(2,3,4-trimethoxy-phenyl)-pentanoic acid methyl ester | 6.78 g, 77% | COC(CCCC(C1=C(C(=C(C=C1)OC)OC)OC)=O)=O | C15H20O6
